US06239159B1
1-(4-methoxycarbonyl butyl)-5-nitroindole (1)
To a stirred solution of 5-nitroindole (0.324 g, 2.0 mmol) in anhydrous acetonitrile (10 ml) was added sodium hydride (0.057 g, 2.38 mmol). The resulting red-brown solution was stirred for 45 minutes, before the addition of a solution of methyl-5-bromovalerate (0.429 g, 2.2 mmol) in anhydrous acetonitrile (1 ml). The solution was stirred for 21 hours, during which time a solid precipitated. Analysis by TLC in chloroform:ethanol (99:1) after 2 hours showed 2 components (starting material: Rf=0.5, 1-(4-methoxycarbonyl butyl)5-nitroindole: Rf=0.8). Further analysis after 21 hours indicated the reaction was essentially complete. The reaction mixture was poured into ethyl acetate (20 ml) and molar HCl (20 ml) and the phases separated. The aqueous phase was extracted with ethyl acetate (20 ml) and the combined organic layer washed with molar sodium bicarbonate solution. The ethyl acetate solution was dried over anhydrous sodium sulphate, filtered and rotary evaporated to give a yellow oil (0.5 g, 1.81 mmol, 91%).

reactant | 5-nitroindole | 2.0 mmol, 0.324 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | sodium hydride | 2.38 mmol, 0.057 g | [H-].[Na+]
reactant | methyl-5-bromovalerate | 2.2 mmol, 0.429 g | COC(CCCCBr)=O | C6H11BrO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 1-(4-methoxycarbonyl butyl)-5-nitroindole | 1.81 mmol, 0.5 g, 91% | COC(=O)CCCCN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C14H16N2O4
